US08372845B2
Step 1: 3-[3-(3-{2-[(E)-3,5-Diamino-6-chloro-pyrazine-2-carbonylimino]-1,3,8-triaza-spiro[4.5]decane-8-carbonyl}-phenyl)-ureido]-propionic acid ethyl ester
The title compound was prepared from 3-[3-(2-ethoxycarbonyl-ethyl)-ureido]-benzoic acid (Int. F) and 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide hydrochloride using an analogous method to Example 1; LC-MS Rt 0.81 mins; 587.4 and 589.3 [M+H]+, Method 2minLC_v003.

reactant | 3-[3-(2-ethoxycarbonyl-ethyl)-ureido]-benzoic acid | C(C)OC(=O)CCNC(NC=1C=C(C(=O)O)C=CC1)=O | C13H16N2O5
reactant | 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide hydrochloride | Cl.N1\C(\NCC12CCNCC2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl
product | 3-[3-(3-{2-[(E)-3,5-Diamino-6-chloro-pyrazine-2-carbonylimino]-1,3,8-triaza-spiro[4.5]decane-8-carbonyl}-phenyl)-ureido]-propionic acid ethyl ester | C(C)OC(CCNC(=O)NC1=CC(=CC=C1)C(=O)N1CCC2(CN\C(\N2)=N/C(=O)C2=NC(=C(N=C2N)N)Cl)CC1)=O | C25H31ClN10O5
